datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC1=CC([C:21](C)([N+](=O)[O-])[H:20])=CC=C1.ClCC[O-:10]>>CC1=CC([C-:21](C)[N+](=O)[O-])=CC=C1.ClCC[O:10][H:20] 10=20;20,21=21",
"C[C@@]12CC(=O)N[C@]1(CCC(=O)[O-:10])C(=O)NC2=O.O=C([O-])/C=C\C(=O)[N:21](OCc1ccccc1)[H:20]>>C[C@@]12CC(=O)N[C@]1(CCC(=O)[O:10][H:20])C(=O)NC2=O.O=C([O-])/C=C\C(=O)[N-:21]OCc1ccccc1 10=20;20,21=21",
"Cc1cc(C)c2c(O)c(CC(=O)[O:21][H:20])oc2c1.N#CC(C#N)=[N:10]Nc1ccc(CCCl)cc1>>Cc1cc(C)c2c(O)c(CC(=O)[O-:21])oc2c1.N#CC(C#N)=[N+:10](Nc1ccc(CCCl)cc1)[H:20] 10=20;20,21=21",
"CCCCCCCCCC[NH:10]Cc1ccc(C)cc1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CCCCCCCCCC[NH+:10](Cc1ccc(C)cc1)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.O=C([O-])C1CC[NH:10]1>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.O=C([O-])C1CC[NH+:10]1[H:20] 10=20;20,21=21",
"CC(C)N/C=[NH+]/c1ccc(-c2c[n:10]cn2C)cc1.C[N+:21](C)(CCC(=O)[O-])[H:20]>>CC(C)N/C=[NH+]/c1ccc(-c2c[n+:10]([H:20])cn2C)cc1.C[N:21](C)CCC(=O)[O-] 10=20;20,21=21",
"O=[N+]([O-])c1cccc2c[n+](CC[NH2:10])ccc12.c1cnc2nc[n+:21]([H:20])cc2n1>>O=[N+]([O-])c1cccc2c[n+](CC[NH2+:10][H:20])ccc12.c1cnc2nc[n:21]cc2n1 10=20;20,21=21",
"Cc1ccc(C[NH2:10])cc1.O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>Cc1ccc(C[NH2+:10][H:20])cc1.O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC(C)C1=CC=CC(=O)C([O:21][H:20])=C1Br.COc1ccc(-c2[nH]c3cccnc3[n:10]2)c(OC)c1>>CC(C)C1=CC=CC(=O)C([O-:21])=C1Br.COc1ccc(-c2[nH]c3cccnc3[n+:10]2[H:20])c(OC)c1 10=20;20,21=21",
"CC[N:10](CC)CC(C)Nc1c2ccc(Cl)cc2nc2ccc(OC)cc12.Cc1[nH]c2cccc(N)c2[n+:21]1[H:20]>>CC[N+:10](CC)(CC(C)Nc1c2ccc(Cl)cc2nc2ccc(OC)cc12)[H:20].Cc1[nH]c2cccc(N)c2[n:21]1 10=20;20,21=21",
"C=CC(C)(C)[NH:10]c1ccccc1.COc1cc2c(cc1OC)[C@]13CC[N+:21]4([H:20])CC5=CCO[C@@H]6CC(=O)N2[C@@H]1[C@@H]6[C@@H]5C[C@H]34>>C=CC(C)(C)[NH+:10](c1ccccc1)[H:20].COc1cc2c(cc1OC)[C@]13CC[N:21]4CC5=CCO[C@@H]6CC(=O)N2[C@@H]1[C@@H]6[C@@H]5C[C@H]34 10=20;20,21=21",
"CCc1cc(-c2ccccc2)n[n+:21]([H:20])c1NCC[NH+]1CCOCC1.C[NH+]1CCC(N[NH:10]C)CC1>>CCc1cc(-c2ccccc2)n[n:21]c1NCC[NH+]1CCOCC1.C[NH+]1CCC(N[NH+:10](C)[H:20])CC1 10=20;20,21=21",
"CCCC[O-:10].O=C(C1=CC=NC=C1)[CH:21](C1=CC=CC([N+](=O)[O-])=C1)[H:20]>>CCCC[O:10][H:20].O=C(C1=CC=NC=C1)[CH-:21]C1=CC=CC([N+](=O)[O-])=C1 10=20;20,21=21",
"CCC[NH+:21](CC(=O)O)[H:20].Clc1ccc([S-:10])cc1Cl>>CCC[NH:21]CC(=O)O.Clc1ccc([S:10][H:20])cc1Cl 10=20;20,21=21",
"CNCC(C)C[NH:10]C.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CNCC(C)C[NH+:10](C)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"Nc1c(C(=O)[O-])[n+:21]([H:20])cn1[C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O.Nc1nc[n:10]c2scnc12>>Nc1c(C(=O)[O-])[n:21]cn1[C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O.Nc1nc[n+:10]([H:20])c2scnc12 10=20;20,21=21",
"CC[S+:21](C(O)O)[H:20].O=S(=O)(c1nccs1)[NH-:10]>>CC[S:21]C(O)O.O=S(=O)(c1nccs1)[NH:10][H:20] 10=20;20,21=21",
"CC(C)[NH:10]CCc1ccc([O-])cc1.Cc1ccc([N+:21](C)(CO)[H:20])cc1>>CC(C)[NH+:10](CCc1ccc([O-])cc1)[H:20].Cc1ccc([N:21](C)CO)cc1 10=20;20,21=21",
"COc1csc(C(=O)[O:21][H:20])c1.Nc1cccn[n:10]1>>COc1csc(C(=O)[O-:21])c1.Nc1cccn[n+:10]1[H:20] 10=20;20,21=21",
"CCC(=O)OC(C)C[N+:21](C)(C)[H:20].c1ccc2cc3[nH]c([S-:10])nc3cc2c1>>CCC(=O)OC(C)C[N:21](C)C.c1ccc2cc3[nH]c([S:10][H:20])nc3cc2c1 10=20;20,21=21",
"CC[N+:21](CC)(Cc1cc(Br)ccc1[O-])[H:20].CC[N:10]1CCCC1CNC(=O)c1c([O-])cccc1OC>>CC[N+:10]1([H:20])CCCC1CNC(=O)c1c([O-])cccc1OC.CC[N:21](CC)Cc1cc(Br)ccc1[O-] 10=20;20,21=21",
"Cn1ncc2c[n:10]cnc21.Nc1nccc2c1[nH+]cn2CCOCP(=O)(O)[O:21][H:20]>>Cn1ncc2c[n+:10]([H:20])cnc21.Nc1nccc2c1[nH+]cn2CCOCP(=O)(O)[O-:21] 10=20;20,21=21",
"CN(C)C=[N+:21](c1ccccc1Cl)[H:20].[NH3+]CCCCc1cccc[n:10]1>>CN(C)C=[N:21]c1ccccc1Cl.[NH3+]CCCCc1cccc[n+:10]1[H:20] 10=20;20,21=21",
"C1C[NH+:21]([H:20])CCN1.C[NH+](C)Cc1c(O)c(O)c([O-:10])c(C[NH+](C)C)c1C(=O)[O-]>>C1C[NH:21]CCN1.C[NH+](C)Cc1c(O)c(O)c([O:10][H:20])c(C[NH+](C)C)c1C(=O)[O-] 10=20;20,21=21",
"C#CCCCC[NH2+:21][H:20].c1ccc2c(c1)c1cc[n+]3cc4c(cc3c1[n-:10]2)CCCC4>>C#CCCCC[NH2:21].c1ccc2c(c1)c1cc[n+]3cc4c(cc3c1[n:10]2[H:20])CCCC4 10=20;20,21=21",
"CC=C=CC(C)(C)C(=O)[O:21][H:20].N#CC[N:10]1CCCCC1>>CC=C=CC(C)(C)C(=O)[O-:21].N#CC[N+:10]1([H:20])CCCCC1 10=20;20,21=21",
"CCC([N+](=O)[O-])=[N+]([O-])[O:21][H:20].c1coc(CNc2nc[n:10]c3nc[nH]c23)c1>>CCC([N+](=O)[O-])=[N+]([O-])[O-:21].c1coc(CNc2nc[n+:10]([H:20])c3nc[nH]c23)c1 10=20;20,21=21",
"Cc1cc([O-:10])c(C(C)C)cc1Cl.O=C([O-])C[NH+](CC(=O)[O-])Cc1cc(Cl)cc(C[N+:21](CC(=O)[O-])(CC(=O)[O-])[H:20])c1[O-]>>Cc1cc([O:10][H:20])c(C(C)C)cc1Cl.O=C([O-])C[NH+](CC(=O)[O-])Cc1cc(Cl)cc(C[N:21](CC(=O)[O-])CC(=O)[O-])c1[O-] 10=20;20,21=21",
"C#CCCC[NH2:10].c1cnc2ccc([O:21][H:20])cc2c1>>C#CCCC[NH2+:10][H:20].c1cnc2ccc([O-:21])cc2c1 10=20;20,21=21",
"CSc1ccc([NH2+:21][H:20])cc1I.Cn1nc(/N=N/[O-:10])nc1N1CCCCC1>>CSc1ccc([NH2:21])cc1I.Cn1nc(/N=N/[O:10][H:20])nc1N1CCCCC1 10=20;20,21=21",
"C[NH:10]CCCC(=O)[O-].O=C1OC2=C(C=CC=C2)[CH:21]1[H:20]>>C[NH+:10](CCCC(=O)[O-])[H:20].O=C1OC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
